US05236952
A suspension of 2.05 g of n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate and 600.8 mg of thiosemicarbazide is stirred intensively at 90° for 30 minutes. The mixture is then cooled to 40° and treated with a solution of 870.1 mg of sodium hydroxide in 15 ml of water. The solution is subsequently heated to 90° for 30 minutes, cooled to room temperature and treated dropwise with 2 ml of conc. hydrochloric acid. The crystallized-out product is filtered under suction and then dissolved in ethyl acetate. The solution is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. There is obtained 6-(3,4-dihydroxy-5-nitrophenyl)-3-mercapto-1,2,4-triazin-5(4H)-one of m.p. 282°-284° (from ethanol).

reactant | n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate | 2.05 g | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCCCCCC)=O | C14H17NO7
reactant | thiosemicarbazide | 600.8 mg | NNC(=S)N | CH5N3S
reactant | sodium hydroxide | 870.1 mg | [OH-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 6-(3,4-dihydroxy-5-nitrophenyl)-3-mercapto-1,2,4-triazin-5(4H)-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1C(NC(=NN1)S)=O | C9H6N4O5S
